US07576074B2
(3S,8aS)-Hexahydro-1H-pyrrolo[2,1-c][1,4]oxazin-3-ylmethanol (1.00 g, 6.37 mmol) was dissolved in dichloromethane (10 mL) and triethylamine (2.4 mL, 17.3 mmol) was added at 0° C. followed by dropwise addition of methanesulfonyl chloride (0.93 mL, 12.0 mmol). The solution was warmed to room temperature and stirred for 1.25 h and then was concentrated in vacuo. The residue was partitioned between ethyl acetate and saturated sodium bicarbonate solution. The organic portion was washed with saturated sodium bicarbonate solution. The combined aqueous portion was extracted with ethyl acetate. The combined organic portion was washed with brine, dried over sodium sulfate, filtered and concentrated in vacuo to afford (3S,8aS)-hexahydro-1H-pyrrolo[2,1-c][1,4]oxazin-3-ylmethyl methanesulfonate as an orange-brown oil (1.20 g, 5.1 mmol, 80% yield). MS (EI) for C9H17NO4S: 236 (MH+).

reactant | (3S,8aS)-Hexahydro-1H-pyrrolo[2,1-c][1,4]oxazin-3-ylmethanol | 6.37 mmol, 1.00 g | C1O[C@@H](CN2[C@H]1CCC2)CO | C8H15NO2
reactant | triethylamine | 17.3 mmol, 2.4 mL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 12.0 mmol, 0.93 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | (3S,8aS)-hexahydro-1H-pyrrolo[2,1-c][1,4]oxazin-3-ylmethyl methanesulfonate | 5.1 mmol, 1.20 g, 80% yield | CS(=O)(=O)OC[C@@H]1CN2[C@H](CO1)CCC2 | C9H17NO4S
